US07605171B2
Step A: Ethyl 4-(1-hydroxy-2-methylpropyl)benzoate
To a solution of 3.19 g (11.6 mmol) of ethyl 4-iodobenzoate in 10 mL of THF at −40° C. was added 6.4 mL (12.7 mmol) of isopropylmagnesium chloride (2.0 M in THF). After stirring at −40° C. for 1 h, 1.26 mL (13.9 mmol) of isobutylaldehyde was added. After stirring at −40° C. for 1 h, the reaction was quenched by adding 10 mL of saturated NaHCO3. The mixture was warmed to rt and poured into brine (20 mL). The aqueous layer was extracted with CH2Cl2 (3×20 mL). Organic layers were combined, dried over Na2SO4, and concentrated. Chromatography on a Biotage 40M cartridge using 1:9 v/v EtOAc/hexanes as the eluant gave 2.08 g of the title compound: 1H NMR (500 MHz, CDCl3) δ 0.82 (d, J=6.9, 3H), 0.96 (d, J=6.6, 3H), 1.39 (t, J=7.1, 3H), 1.95 (m, 1H), 2.09 (br. s, 1H), 4.36 (q, J=7.1, 2H), 4.45 (d, J=6.4, 1H), 7.37 (d, J=8.2, 2H), 7.99 (d, J=8.3, 2H).

reactant | ethyl 4-iodobenzoate | 11.6 mmol, 3.19 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | isopropylmagnesium chloride | 12.7 mmol, 2.0 M, 6.4 mL | C(C)(C)[Mg]Cl
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 4-(1-hydroxy-2-methylpropyl)benzoate | 2.08 g | OC(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H18O3
